US04827011
[1-(Hexadecyloxy)-1-methylethyl]oxirane
A mixture of 36.5g of 1-[(1,1-dimethyl-2-propenyl)oxy]hexadecane, 23.92 g of m-chloroperbenzoic acid and 225 ml of methylene chloride was stirred overnight. A 7 g portion of m-chloroperbenzoic acid was added, then the mixture was stored in a chill room for 56 hours. This mixture was filtered. The filtrate was washed with dilute aqueous sodium bisulfite, then saturated aqueous sodium bicarbonate, dried and the solvent removed, giving 36 g of the desired compound.

reactant | 1-[(1,1-dimethyl-2-propenyl)oxy]hexadecane | 36.5g | CC(C=C)(C)OCCCCCCCCCCCCCCCC | C21H42O
reactant | m-chloroperbenzoic acid | 23.92 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 225 ml | C(Cl)Cl | CH2Cl2
product | [1-(Hexadecyloxy)-1-methylethyl]oxirane | 36 g | C(CCCCCCCCCCCCCCC)OC(C)(C)C1OC1 | C21H42O2
